Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
oranges / Zoloft
 
Attending: ___.
 
Chief Complaint:
"I have been feeling like I am a burden to everyone."

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ year old woman with history of BPAD
presenting (BIBA on s12) from her therapist's office after
concern for increased depression after per report she walked 
home
in the middle of the road with intent to be hit by a car.

Per Dr. ___ consult note, "On interview by this 
provider,
patient said: "She suggested that I come here because she didn't
feel that I'm safe at home. I live with my daughter. Daughter is
with my mom right now. A couple of days ago I was supposed to 
see
her [therapist] and I was there at the ___, I left and told
her [about wanting to walk into traffic], and I probably
shouldn't have said anything, I was frustrated, had stopped
talking to a friend who was being negative, I was being
overwhelmed by that and by people in the lobby. I took a walk 
for
a couple of hours. I went to a bar to get something to eat and
drink. I planned to go home and kill myself...[by] Walking in
front of an oncoming car. My phone died so [friend] ___ get
in contact with me. Initially I turned my phone off but it had
died anyway...The only reason I wouldn't hurt myself is because
of my child, ___ Recently divorced, ___ years ago. It has
still been affecting her emotionally. Patient discussed 
financial
stress "Between the new job on ___ as a ___" and
job at ___. Over time, after suppressing it, it starts to
overflow." She added, "Recently when I went to my therapist, I
had financial difficulties paying rent and paying for my car, 
and
am worried not being able to to pay rent and lose my house, even
with two jobs. I feel like I can't take care of my daughter. I
may have to get rid of my dog. I feel
like I'm always going to feel this way. I feel it's best that my
mom has full custody of my daughter so she doesn't have to be
affected by me." 

Collateral obtained in ___ from ___ - ___ Therapist ___:
Diagnosis of bipolar I, has been working with her for past year
and a half, she's been relatively stable. She has had 2 psych
hospitalizations before, one in ___ and one in ___. She was
suicidal with plan to drink bleach, did not follow through on
those, but has been struggling financially, lack of social
supports in the area, divorced ___ years ago during a manic
episode, maybe it was ___ years ago, was put on meds but 
didn't
like medications but took herself off. So no luck with meds at
all, self discontinued all of them, no meds since ___
and had been functioning fairly well. Ended up getting a job at 
a
hair salon, was able to do that, has had a few jobs, then some
crisis happens, she gets overwhelmed, confused, can't sleep,
can't eat, just wants to socially isolate, sits in her 
apartment,
mother takes her daughter, she stays by herself. She's been
increasingly coming late to appointments, no-showing, is
unreachable, her phone dies, thoughts of how to pay her bills
become overwhelming. On ___ she was talking to her because
she checked into her appointment but then left before the
appointment after an upsetting phone call, walking in the street
saying "if a car hits me, oh well."  Came here for her 3:00
appointment today but then wanting to leave. Needs to be safe,
hospitalized, consider medications.  It's been escalating, she's
just been deteriorating. Section is for poor ability to care for
self, although also has concern that she has active suicidal
ideation. She has been manic ___ years ago, got divorced, and has
not been able to move past that. Was working at hair salon for 3
months, worked at ___ then that became overwhleming and
which started to spiral. Patient has been recently unable to
work, staying at home and sleeping, answering occasional calls.
Showing up to appointments at the wrong time and days.
Therapist/psychologist sees her not at her baseline. 

Course in Emergency Department: Pt was cooperative with care.

On interview upon admission to the unit, she talks about several
stressor including: finances (not being able to pay her rent, 
car
insurance, cell phone ___, stress from having started a new 
job
recently, and a falling out with a girlfriend that happened on
___. She has been feeling very depressed and "worthless" for
the past 2 weeks. She has also been feeling irritable and
bothered by being around people. After leaving her therapist's
office on ___, she went to a bar and wished to go home and
die, but had not specific plan. She did walk into a street with
traffic going, and the cars stopped for her, and she continued
walking. She does say that she was intoxicated after going to 
the
bar. She says that she currently does not want to "be around" 
and
when asked whether she means does not want to be on this Earth,
she says yes.

When asked about whether she has a history of mania, she talks
about an episode ___ years ago where she was dancing and acting
promiscuous in the context of intoxication after a friend's
wedding.
 
Patient denies current urges to self-harm, and is able to agree
that she will alert staff if feeling unsafe. Denies AVH. 

I spoke with her outpatient psychologist Dr. ___ who 
is
referring her for an initial psychopharmacology evaluation at 
the
___.

 
Past Medical History:
Rotator cuff injury 
 
Social History:
___
Family History:
Patient does not know
 
Physical Exam:
General- NAD
Skin- no rashes or bruises
HEENT- PERRLA, MMM, normal oropharynx
Lungs- CTA bilaterally
CV- RRR, N S1 and S2, no m/r/g
Extremities- No edema, normal tone
Neuro- normal gait, ___ strength UE & ___ bilaterally, normal
sensation throughout
Cranial nerves:
     pupils symmetry and responsiveness to light and 
accommodation: PERRLA    
     visual fields: full to confrontation
     EOM:  full
     facial symmetry on eye closure and smile:  symmetric
     phonation: normal
     head turning and shoulder shrug:  intact
     tongue:   midline
     abnormal movements: none noted

 
Pertinent Results:
Stox neg, BMP WNL, CBC WNL, Utox neg, UCG neg, U/A w/ few 
bacteria, 5 epi's, EKG w/ QTC ___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. She was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) Major Depressive Disorder vs. Bipolar disorder, depressive 
episode
- Patient presented to ___ with severe depression with SI in 
the context of psychosocial stressors.
- Patient reports a prior history of bipolar disorder, however 
prior episodes of mania are unclear. When asked about her manic 
episodes, she discussed an episode ___ years ago where she was 
dancing and acting promiscuous in the context of intoxication 
after a friend's wedding.
- After a discussion of risks and benefits, the patient was 
started on buproprion, hydroxyzine, and trazodone, which she 
tolerated well with good effect. 
- She attended groups, and especially focused on developing her 
coping skills. She discussed with the team ways in which she 
could continue working on managing her depression outside the 
hospital, such as through yoga or meditation. 
- The team updated the patient's therapist with her hospital 
course and discharge plans, and the patient had a follow up 
appointment scheduled for the day after discharge. Her therapist 
stated that that she will be referring her a prescriber at 
___. 
- Upon discharge, patient reported improved mood, denied SI, and 
was interested in participating in a PHP. She was set up with 
___. 
- As psychosocial stressors contributed to the patient's 
depression, the team referred the patient for additional case 
management services through the Community Support Program run by 
___.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon hopelessness, lack 
of social supports, financial stressors, chronic mental illness, 
and suicidal ideation. During hospitalization, the patient 
started medication and actively participated in groups. Upon 
discharge, she was denying SI, was future oriented with plans to 
help her depression through exercise and meditation, was able to 
describe various coping mechanisms, was motivated to participate 
in her PHP, had follow up with her therapist with whom she has a 
good relationship, and was referred to additional case 
management services to assist her with her various psychosocial 
stressors. Based on the totality of our assessment at this time, 
the patient is not at an acutely elevated risk of self-harm nor 
danger to others. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  BuPROPion XL (Once Daily) 150 mg PO DAILY 
RX *bupropion HCl 150 mg 1 tablet(s) by mouth daily Disp #*15 
Tablet Refills:*1 
2.  HydrOXYzine 25 mg PO TID:PRN anxiety 
RX *hydroxyzine HCl 25 mg 1 tablet by mouth BID: PRN Disp #*30 
Tablet Refills:*1 
3.  TraZODone 50 mg PO QHS:PRN insomnia 
RX *trazodone 50 mg 1 tablet(s) by mouth QHS: PRN Disp #*15 
Tablet Refills:*1 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder

 
Discharge Condition:
 *Appearance: appears stated age, dress in casual street
clothes, good hygiene
  Behavior: calm, cooperative, conversational 
  *Mood and Affect: 'ok' / affect euthymic 
  *Thought process: linear, goal oriented, no LOA
  *Thought Content: denies SI/HI, denies AVH
  *Judgment and Insight: fair/fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___